US05057614
5 g of 4-pyridyl-acetic acid hydrochloride and 3.72 g of diisopropylethylamine in 50 ml of dichloromethane were treated at 0° C. firstly with 6.37 g of 1-methylindole-3-glyoxylyl chloride in 50 ml of dichloromethane and then with 7.5 g of diisopropylethylamine. The mixture was allowed to warm to room temperature and was then stirred for 65 hours. The solvent was removed under reduced pressure and the residue was taken up in dichloromethane and chromatographed on silica gel with ethyl acetate. The product-containing fractions were concentrated. Crystallization from ethyl acetate/hexane yielded 940 mg of 3-(1-methyl-3-indolyl)-4-(4-pyridyl)furan-2,5-dione, m.p. 217°-219° C.

reactant | 4-pyridyl-acetic acid hydrochloride | 5 g | Cl.N1=CC=C(C=C1)CC(=O)O
reactant | diisopropylethylamine | 3.72 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diisopropylethylamine | 7.5 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-(1-methyl-3-indolyl)-4-(4-pyridyl)furan-2,5-dione | 940 mg | CN1C=C(C2=CC=CC=C12)C=1C(OC(C1C1=CC=NC=C1)=O)=O | C18H12N2O3
